US05118686
6-Acetamido-2-(2-propoxyphenyl)pyrimidin-4[3H1-one
A stirred solution of 6-amino-2-(2-propoxyphenyl)-pyrimidin-4[3H]-one (0.5 g) and acetic anhydride was heated under reflux for 2.5 hours. The cooled reaction mixture was evaporated under reduced pressure to yield a residue which was washed with water and recrystallised twice from methanol to yield the title compound, 0.29 g, m.p. 230°-1° C.

reactant | 6-amino-2-(2-propoxyphenyl)-pyrimidin-4[3H]-one | 0.5 g | NC1=CC(NC(=N1)C1=C(C=CC=C1)OCCC)=O | C13H15N3O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 6-Acetamido-2-(2-propoxyphenyl)pyrimidin-4[3H1-one | C(C)(=O)NC1=CC(NC(=N1)C1=C(C=CC=C1)OCCC)=O | C15H17N3O3
